US07910592B2
Sodium hydride (6-8 mg, 60% dispersion in mineral oil, 0.205 mmol) was added to a solution of (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-1,3-oxazolidin-2-one (49.0 mg, 0.156 mmol) in dry THF (2 mL) at room temperature under N2. After stirring for 15 min at room temperature a solution of 3-(bromomethyl)-5,6,7,8-tetrahydronaphthalen-2-yl trifluoromethanesulfonate (48.6 mg, 0.130 mmol) in dry THF (3 mL) was added via cannula. The reaction mixture was stirred for 4 h at room temperature. Saturated NH4Cl (10 mL) was added and the mixture was extracted with EtOAc (3×20 mL). The combined extracts were dried (Na2SO4) and concentrated in vacuo to give the crude product. This was purified by flash chromatography (Si, 12×160 mm, 0-20% EtOAc in hexanes gradient) to afford 3-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-5,6,7,8-tetrahydronaphthalen-2-yl trifluoromethanesulfonate, as a colorless oil. Rf=0.51 (20% EtOAc/hexanes). LCMS calc.=606.1; found 606.2 (M+1)+. 1H NMR (500 MHz, CDCl3): δ 7.88 (s, 1H); 7.76 (s, 2H); 7.20 (s, 1H); 6.99 (s, 1H); 5.69 (d, J=7.9 Hz, 1H); 4.80 (d, J=15.6 Hz, 1H); 4.25 (d, J=15.6 Hz, 1H); 4.08-4.02 (m, 1H); 2.81-2.74 (m, 4H); 1.82-1.80 (m, 4H); 0.77 (d, J=6.5 Hz, 3H).

reactant | Sodium hydride | 0.205 mmol, 6-8 mg | [H-].[Na+]
reactant | (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-1,3-oxazolidin-2-one | 0.156 mmol, 49.0 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](NC(O1)=O)C)(F)F | C12H9F6NO2
reactant | 3-(bromomethyl)-5,6,7,8-tetrahydronaphthalen-2-yl trifluoromethanesulfonate | 0.130 mmol, 48.6 mg | FC(S(=O)(=O)OC1=CC=2CCCCC2C=C1CBr)(F)F | C12H12BrF3O3S
reactant | NH4Cl | 10 mL | [NH4+].[Cl-]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 3-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-5,6,7,8-tetrahydronaphthalen-2-yl trifluoromethanesulfonate | FC(S(=O)(=O)OC1=CC=2CCCCC2C=C1CN1C(O[C@@H]([C@@H]1C)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)(F)F | C24H20F9NO5S
